US07402596B2
Tin(II) chloride dihydrate (1.21 g, 5.36 mmol) was added to a stirred solution of 2-benzyl-5-nitroisoquinolin-1(2H)-one (300 mg, 1.07 mmol) in anhydrous ethanol (20 mL). The reaction mixture was stirred at reflux for 20 h. The resulting mixture was cooled to room temperature, treated with saturated aqueous sodium bicarbonate to pH=11 and diluted with water (100 mL). The obtained mixture was extracted with ethyl acetate (3×70 mL). The combined organic fractions were dried over anhydrous Na2SO4, filtered and evaporated to give 5-amino-2-benzylisoquinolin-1(2H)-one (248 mg, 1.0 mmol, 93% yield) as an orange foam.

reactant | Tin(II) chloride dihydrate | 5.36 mmol, 1.21 g | O.O.[Sn](Cl)Cl
reactant | 2-benzyl-5-nitroisoquinolin-1(2H)-one | 1.07 mmol, 300 mg | C(C1=CC=CC=C1)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C16H12N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 5-amino-2-benzylisoquinolin-1(2H)-one | 1.0 mmol, 248 mg, 93% yield | NC1=C2C=CN(C(C2=CC=C1)=O)CC1=CC=CC=C1 | C16H14N2O
